US07345067B2
A solution of crude [4-(tert-butoxycarbonyl-methyl-amino)-2-methyl-phenoxy]-acetic acid ethyl ester/[4-(tert-butoxycarbonyl-methyl-amino)-2-methyl-phenoxy]-acetic acid methyl ester (3.42 g containing 3.196 g, 9.88 mmol) in CH2Cl2 (100 ml) was treated at 0° C. with TFA (38 ml) and stirred at RT for 2.5 h. The reaction was evaporated, treated with chilled aqueous saturated NaHCO3 solution/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated to give crude (2-Methyl-4-methylamino-phenoxy)-acetic acid ethyl ester with ca 20% of (2-Methyl-4-methylamino-phenoxy)-acetic acid methyl ester. Purification by flash chromatography with a gradient of n-heptane:EtOAc 95:5 to 2:1 yielded 0.83 g (38%) of (2-methyl-4-methylamino-phenoxy)-acetic acid ethyl ester as an orange oil, MS: 224 (MH+) and 0.44 g (21%) of (2-Methyl-4-methylamino-phenoxy)-acetic acid methyl ester as an orange oil, MS: 210 (MH+).

reactant | [4-(tert-butoxycarbonyl-methyl-amino)-2-methyl-phenoxy]-acetic acid ethyl ester [4-(tert-butoxycarbonyl-methyl-amino)-2-methyl-phenoxy]-acetic acid methyl ester | 9.88 mmol, 3.42 g | C(C)OC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)C)=O.COC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)C)=O
reactant | TFA | 38 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | (2-Methyl-4-methylamino-phenoxy)-acetic acid methyl ester | ca 20% | COC(COC1=C(C=C(C=C1)NC)C)=O | C11H15NO3
